US04886835
The procedure is as in Example 2, starting with diethyl 5-benzylthio-2-dimethylamino-2,4-hexadienedioate (10 g) and 1N aqueous hydrochloric acid solution (41.3 cc) in ethanol (41.3 cc). The mixture is heated to boiling for 2 minutes, and then cooled to a temperature in the region of 20° C. After purification by chromatography on a silica column with a mixture of cyclohexane and ethyl acetate (30:70 by volume) as eluent, diethyl 5-benzylthio-2-hydroxy-2,4-hexadienedioate (6.3 g) (m.p. <40° C.) is obtained [Rf=0.6; thin layer chromatography on silica gel; eluent: cyclohexane/ethyl acetate (30:70 by volume)].

reactant | diethyl 5-benzylthio-2-dimethylamino-2,4-hexadienedioate | 10 g | C(C1=CC=CC=C1)SC(=CC=C(C(=O)OCC)N(C)C)C(=O)OCC | C19H25NO4S
reactant | hydrochloric acid | 1N, 41.3 cc | Cl | ClH
reactant | ethanol | 41.3 cc | C(C)O | C2H6O
product | diethyl 5-benzylthio-2-hydroxy-2,4-hexadienedioate | 6.3 g | C(C1=CC=CC=C1)SC(=CC=C(C(=O)OCC)O)C(=O)OCC | C17H20O5S
